US05125958
To a stirred mixture of 20.0 g (0.0681 mole) of 2-(2-chloro-4-fluoro-5-nitrophenyl)-1,3-dithiane in 150 mL of acetic acid was added 75 mL of tetrahydrofuran. Iron powder (15.8 g, 0.269 mole) was added portionwise. Upon complete addition, the reaction mixture was heated to about 50° C. for approximately 30 minutes. The reaction mixture was cooled in an ice bath and was diluted with diethyl ether. The resultant mixture was filtered through a pad of Celite® filter aid. Water was added to the filtrate, and the organic phase was removed. An aqueous, sodium bicarbonate solution was added to the organic phase with vigorous stirring until the mixture was slightly basic. The aqueous phase was allowed to separate from the organic phase and was removed. The aqueous phase was extracted with diethyl ether, and the extracts were added to the organic phase. This organic solution was dried over anhydrous magnesium sulfate and was filtered. The filtrate was evaporated under reduced pressure to yield 13.5 g of 2-(5-amino-2-chloro-4-fluorophenyl)-1,3-dithiane as a solid, m.p. 112°-115° C.

reactant | 2-(2-chloro-4-fluoro-5-nitrophenyl)-1,3-dithiane | 0.0681 mole, 20.0 g | ClC1=C(C=C(C(=C1)F)[N+](=O)[O-])C1SCCCS1 | C10H9ClFNO2S2
reactant | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
solvent | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | Iron | 0.269 mole, 15.8 g | [Fe] | Fe
product | 2-(5-amino-2-chloro-4-fluorophenyl)-1,3-dithiane | 13.5 g | NC=1C(=CC(=C(C1)C1SCCCS1)Cl)F | C10H11ClFNS2
